US08232403B2
To a cooled (0° C.) mixture of anhydrous AlCl3 (6.30 g, 47 mmol) in THF (300 mL) is slowly added lithium aluminum hydride (5.95 g, 157 mmol), and the resulting mixture is stirred at the same temperature for 10 min. To the resulting stirred and cooled (−65° C.) THF mixture is added trans-(3S,7aS)-7a-[4-(benzyloxyethyl)cyclohexyl]-3-phenyltetrahydropyrrolo[2,1-b]oxazol-5-one (22.0 g, 52 mmol) dissolved in THF (150 mL) over 30 min. The resulting mixture is stirred at the same temperature for 2 hours, and then warmed to room temperature and stirred additional 1 hour. The resulting mixture is cooled to 0° C., quenched by careful addition of Na2SO4-10H2O, and stirred for additional 30 min at room temperature. The insoluble matter is filtered and the filtrate is concentrated in vacuo to afford crude trans-(S)-2{(R)-2-[4-(benzyloxyethyl)cyclohexyl]pyrrolidin-1-yl}-2-phenylethanol, which is used without further purification.

reactant | AlCl3 | 47 mmol, 6.30 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | lithium aluminum hydride | 157 mmol, 5.95 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | trans-(3S,7aS)-7a-[4-(benzyloxyethyl)cyclohexyl]-3-phenyltetrahydropyrrolo[2,1-b]oxazol-5-one | 52 mmol, 22.0 g | C(C1=CC=CC=C1)OCC[C@@H]1CC[C@H](CC1)[C@]12OC[C@@H](N1C(CC2)=O)C2=CC=CC=C2 | C27H33NO3
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | trans-(S)-2{(R)-2-[4-(benzyloxyethyl)cyclohexyl]pyrrolidin-1-yl}-2-phenylethanol | C(C1=CC=CC=C1)OCC[C@@H]1CC[C@H](CC1)[C@@H]1N(CCC1)[C@H](CO)C1=CC=CC=C1 | C27H37NO2
